US05134142
A solution of diethyl cyanomethylphosphonate (5.3 ml) in tetrahydrofuran (10 ml) was added dropwise to an ice-cooled mixture of sodium hydride (60%, 1.3 g) in tetrahydrofuran (40 ml). The mixture was stirred at 5° C. for 15 minutes. To the resulting mixture was added a solution of 4-(methylthio)benzaldehyde (5 g) in tetrahydrofuran (10 ml) at 5 to 10° C. The mixture was stirred at ambient temperature for 5 hours, diluted with ethyl acetate, and washed with water. The organic layer was dried and concentrated under reduced pressure. The residue was washed with a small amount of ether and dried to give pale brown crystals of 3-[4-(methylthio)phenyl]acrylonitrile (4.7 g).

reactant | diethyl cyanomethylphosphonate | 5.3 ml | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride | 1.3 g | [H-].[Na+]
reactant | 4-(methylthio)benzaldehyde | 5 g | CSC1=CC=C(C=O)C=C1 | C8H8OS
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-(methylthio)phenyl]acrylonitrile | 4.7 g | CSC1=CC=C(C=C1)C=CC#N | C10H9NS
